US04252738
34.4 g (0.2 mol) of 3-methoxy-3,6,6-trimethyl-2,4-dioxa-bicyclo[3,2,0]heptane (stereoisomer mixture) and 44.0 g (0.22 mol) of trimethyliodosilane are heated to the reflux in 150 ml of methylene chloride for 15 hours. Concentration and fractional distillation in vacuo give 40.2 g (75%) of trans-1-iodo-2-acetoxy-3,3-dimethyl-cyclobutane. Boiling point0.1 38°-39°, nD20 1.5008.

reactant | 3-methoxy-3,6,6-trimethyl-2,4-dioxa-bicyclo[3,2,0]heptane | 0.2 mol, 34.4 g | COC1(OC2CC(C2O1)(C)C)C | C9H16O3
reactant | trimethyliodosilane | 0.22 mol, 44.0 g | C[Si](I)(C)C | C3H9ISi
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | trans-1-iodo-2-acetoxy-3,3-dimethyl-cyclobutane | 40.2 g, 75% | I[C@H]1[C@@H](C(C1)(C)C)OC(C)=O | C8H13IO2
